US06288075B1
The procedure is carried out as in Example 23, but starting with 1.1 g of bromine in 3.5 ml of acetic acid, 1.6 g of 7-trifluoromethoxy-3,4-dihydro-1H-quinoxalin-2-one and 1.54 g of potassium thiocyanate in 20 ml of acetic acid. The product obtained (1.8 g) is purified by chromatography on a silica gel column, eluting with a mixture of dichloromethane and methanol (99-1 by volume). 0.3 g of 2-imino-8-trifluoromethoxy-2H,4H-thiazolo[3,4,5-de]quinoxalin-5(6H)-one is thus obtained in the form of a yellow solid melting at 255° C. [Analysis C10H6F3N3O2S, % calculated C: 41.53,H: 2.09, F: 19.71, N: 14.53, O: 11.06, S: 11.09,% found C: 41.00,H: 1.7, F: 19.2, N: 14.50, S: 11.6].

reactant | bromine | 1.1 g | BrBr | Br2
reactant | 7-trifluoromethoxy-3,4-dihydro-1H-quinoxalin-2-one | 1.6 g | FC(OC1=CC=C2NCC(NC2=C1)=O)(F)F | C9H7F3N2O2
reactant | potassium thiocyanate | 1.54 g | [S-]C#N.[K+]
solvent | acetic acid | 3.5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-imino-8-trifluoromethoxy-2H,4H-thiazolo[3,4,5-de]quinoxalin-5(6H)-one | 0.3 g | N=C1SC=2C=3N1CC(NC3C=C(C2)OC(F)(F)F)=O | C10H6F3N3O2S
